US07745640B2
6. Synthesis of 2-{(1E,3E)-5-[3-(3-carboxy-propyl)-3-methyl-5-sulfo-1-(3-sulfo-propyl)-1,3-dihydro-indole-(2E)-ylidene]-penta-1,3-dienyl}-3-methyl-5-sulfo-1,3-bis-(3-sulfo-propyl)-3 H-indolium tetrasodium salt (OB-5.5)
642 mg (1 mmol) 3-methyl-2-((1E,3E)-4-phenylamino-buta-1,3-dienyl)-5-sulfo-1,3-bis-(3-sulfo-propyl)-3H-indolium disodium salt and 483 mg (1 mmol) 3-(3-Carboxypropyl)-2,3-dimethyl-5-sulfonato-1-(3-sulfopropyl)-3H-indolium sodium salt were dissolved in a mixture of 10 ml acetic acid and 10 ml acetic anhydride. Five ml pyridine was added. The solution was stirred under reflux for 15 min. Twenty ml ether was added after cooling to room temperature. The obtained precipitate (mixture of the diastereomers OB-5.5a and OB-5.5b) was extracted by suction, washed with ether, and dried.

reactant | 3-methyl-2-((1E,3E)-4-phenylamino-buta-1,3-dienyl)-5-sulfo-1,3-bis-(3-sulfo-propyl)-3H-indolium disodium salt | 1 mmol, 642 mg | [Na+].[Na+].CC1(C(=[N+](C2=CC=C(C=C12)S(=O)(=O)O)CCCS(=O)(=O)O)\C=C\C=C\NC1=CC=CC=C1)CCCS(=O)(=O)O
reactant | 3-(3-Carboxypropyl)-2,3-dimethyl-5-sulfonato-1-(3-sulfopropyl)-3H-indolium sodium salt | 1 mmol, 483 mg | [Na].C(=O)(O)CCCC1(C(=[N+](C2=CC=C(C=C12)S(=O)(=O)[O-])CCCS(=O)(=O)O)C)C
reactant | pyridine | Five ml | N1=CC=CC=C1 | C5H5N
reactant | ether | Twenty ml | CCOCC | C4H10O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-{(1E,3E)-5-[3-(3-carboxy-propyl)-3-methyl-5-sulfo-1-(3-sulfo-propyl)-1,3-dihydro-indole-(2E)-ylidene]-penta-1,3-dienyl}-3-methyl-5-sulfo-1,3-bis-(3-sulfo-propyl)-3 H-indolium tetrasodium salt | [Na+].[Na+].[Na+].[Na+].C(=O)(O)CCCC1(/C(/N(C2=CC=C(C=C12)S(=O)(=O)O)CCCS(=O)(=O)O)=C\C=C\C=C\C1=[N+](C2=CC=C(C=C2C1(CCCS(=O)(=O)O)C)S(=O)(=O)O)CCCS(=O)(=O)O)C | InChI=1S/C36H46N2O17S5.4Na/c1-35(17-6-12-34(39)40)28-24-26(59(50,51)52)13-15-30(28)37(19-8-22-57(44,45)46)32(35)10-4-3-5-11-33-36(2,18-7-21-56(41,42)43)29-25-27(60(53,54)55)14-16-31(29)38(33)20-9-23-58(47,48)49;;;;/h3-5,10-11,13-16,24-25H,6-9,12,17-23H2,1-2H3,(H5-,39,40,41,42,43,44,45,46,47,48,49,50,51,52,53,54,55);;;;/q;4*+1/p+1
